US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-amino-5-chloro-2-methoxy-benzamide Hydrochloride
4-Amino-5-chloro-2-methoxybenzoic acid (2.08 g, 11.1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.77 g 9.24 mmol) and 1-hydroxybenzotriazole (1.25 g, 9.24 mmol) were dissolved in dry DMF (40 ml) and stirred at room temperature under argon for 0.5h before 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (1.5 g, 9.24 mmol) was added. The mixture was then stirred for 18 h under argon at room temperature. The DMF was removed in vacuo and the residue taken up into ethyl acethate and washed with water, saturated aqueous sodium bicarbonate and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford a yellow solid. This was then passed through a short pad of silica eluting with dichloromethane to afford a white solid which was then taken up into methanol and treated with hydrogen chloride (1M in ether, 1 equivalent). The solvent was removed in vacuo and the residue recrystallised from methanol and ethyl acethate to afford the title compound as a white solid (0.775 g).

reactant | 4-Amino-5-chloro-2-methoxybenzoic acid | 11.1 mmol, 2.08 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.24 mmol, 1.77 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 9.24 mmol, 1.25 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 9.24 mmol, 1.5 g | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | hydrogen chloride | 1M, 1 equivalent | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-amino-5-chloro-2-methoxy-benzamide Hydrochloride | 0.775 g | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O | InChI=1S/C18H20ClN3O2.ClH/c1-22-7-6-12-11(10-22)4-3-5-16(12)21-18(23)13-8-14(19)15(20)9-17(13)24-2;/h3-5,8-9H,6-7,10,20H2,1-2H3,(H,21,23);1H
